US04761410
A mixture of 2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetic acid (syn isomer) (2.4 g) and diisopropylethylamine (1.29 g) in N,N-dimethylformamide (35 ml) was cooled to -30° C. and mesyl chloride (1.15 g) was added dropwise thereto. The mixture was stirred at -20° to -30° C. for 30 minutes to give an activated acid solution. On the other hand, a mixture of benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate (2.18 g) and N-trimethylsilylacetamide (5.25 g) in methylene chloride (20 ml) was stirred to be a clear solution for 30 minutes at room temperature and then cooled to -20° C. To this solution was added the activated acid solution obtained above in one portion. The mixture was stirred for 30 minutes at -15° to -10° C., poured into water and extracted with ethyl acetate. The extract was washed with water three times, dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated in diisopropyl ether to give benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)- 2-difluoromethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate (syn isomer) (4.64 g).

reactant | 2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetic acid | 2.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC(F)F | C25H19F2N3O3S
reactant | diisopropylethylamine | 1.29 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | mesyl chloride | 1.15 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate | 2.18 g | NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H19ClN2O3S
reactant | N-trimethylsilylacetamide | 5.25 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)- 2-difluoromethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate | 4.64 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC(F)F | C46H36ClF2N5O5S2
